US08072137B2
(1) Synthesis of Intermediate Compound 3: 3-phenylfuro[3,4-c]-pyridine-1-(3H)-one
Under a nitrogen atmosphere, 14.35 g (105.5 mmol) of 2,2,6,6-tetramethylpiperidine was dissolved in tetrahydrofuran (200 ml) as a solvent, and the solution was cooled to −30° C. After that, 60 mL (1.6-mol/L solution, 96.1 mmol) of normal butyllithium was slowly dropped to the solution. After the dropping, the mixture was heated to 0° C., and was stirred for 15 minutes. After that, the mixture was cooled to −70° C. A solution (100 ml) of 5.00 g (48.0 mmol) of isonicotinonitrile in tetrahydrofuran was dropped over 15 minutes to the mixture at −70° C. After the mixture had been stirred at −70° C. for an additional 30 minutes, a solution (50 ml) of 10.2 g (96.1 mmol) of benzaldehyde in tetrahydrofuran was dropped over 5 minutes to the mixture. After having been stirred at −70° C. for an additional 30 minutes, the mixture was slowly heated to 0° C., and water was added to the mixture to stop the reaction. Chloroform was added to the mixture to separate an organic layer, and the layer was washed with water four times. After that, the solvent was removed by distillation, and chloroform (50 ml) and 35 g of silica gel were added to the resultant residue. The mixture was stirred under heat and reflux for 6 hours, and then stirred under heat and reflux for 3 hours with addition of acetic acid. After the mixture had been cooled to room temperature, the solvent was removed by distillation again. The resultant residue was purified by silica gel column chromatography (toluene:ethyl acetate=8:1), whereby 2.06 g of Intermediate Compound 3 were obtained.

reactant | 2,2,6,6-tetramethylpiperidine | 105.5 mmol, 14.35 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | normal butyllithium | 96.1 mmol, 1.6-mol/L, 60 mL | C(CCC)[Li]
reactant | isonicotinonitrile | 48.0 mmol, 5.00 g | C(C1=CC=NC=C1)#N | C6H4N2
reactant | benzaldehyde | 96.1 mmol, 10.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3-phenylfuro[3,4-c]-pyridine-1-(3H)-one | 2.06 g | C1(=CC=CC=C1)C1OC(C2=C1C=NC=C2)=O | C13H9NO2
